US06194426B1
2-Chloro-3-(3-pyridyl)-5,6,7,8-tetrahydroindolizine-1-carboxylic acid is prepared as in Example 44, from 0.9 g of methyl 2-chloro-3-(3-pyridyl)-5,6,7,8-tetrahydroindolizine-1-carboxylate. 0.72 g of 2-chloro-3-(3-pyridyl)-5,6,7,8-tetrahydroindolizine-1-carboxylic acid are thus obtained in the form of a white powder (Rf=0.43; thin layer chromatography on silica gel; eluent: 9/1 dichloromethane/methanol).

reactant | methyl 2-chloro-3-(3-pyridyl)-5,6,7,8-tetrahydroindolizine-1-carboxylate | 0.9 g | ClC=1C(=C2CCCCN2C1C=1C=NC=CC1)C(=O)OC | C15H15ClN2O2
solvent | dichloromethane methanol | ClCCl.CO
product | 2-chloro-3-(3-pyridyl)-5,6,7,8-tetrahydroindolizine-1-carboxylic acid | 0.72 g | ClC=1C(=C2CCCCN2C1C=1C=NC=CC1)C(=O)O | C14H13ClN2O2
